US06956049B1
Anhydrous ZnCl2 (10 g, 73 mmol) was dissolved in THF (50 mL) and the solution cooled to 0° C. in an ice bath. In another flask phenylacetylene (8.0 mL, 73 mmol) was dissolved in THF (50 mL), cooled to 0° C. in an ice bath, and treated with n-butyllithium (32 mL of a 2.2M solution in hexane, 70 mmol). After 20 minutes the phenylethynyllithium solution was added via cannula to the ZnCl2 solution. After an additional 20 minutes Pd(PPh3)4 (1.23 g, 1.06 mmol) was added to the alkynylzinc solution. The resulting yellow solution was treated with chloroacetyl chloride (8.8 mL, 110 mmol) dropwise over 10 minutes. After 2 h at 0° C. the reaction mixture was quenched by the addition of cold aqueous 1M HCl (50 mL), and diethyl ether (500 mL). The acidic aqueous was extracted with diethyl ether (2×50 mL) and the combined organic extracts were washed with water (50 mL), saturated NaHCO3 (50 mL), and brine (50 mL). The dark solution was dried and decolorized over Na2SO4 and charcoal and filtered through a pad of Celite™. The pad was washed thoroughly with ethyl acetate and the combined filtrates were concentrated in vacuo to afford a dark brown oil. The crude product was purified by column chromatography eluting with hexane, 99:1, 98:2, 96:4, then 94:6 hexane:ethyl acetate to afford 1-chloro-4-phenyl-3-butyn-2-one (7.83 g, 60% yield) as an orange oil which darkened and partially solidified upon standing in the freezer. 1H NMR (CDCl3, 300 MHz) δ 7.63–7.60 (m, 2H), 7.53–7.39 (m, 3H), 4.33 (s, 3H). MS (EI ionization) 178 (35Cl M+), 180 (37Cl M+).

reactant | phenylacetylene | 73 mmol, 8.0 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | n-butyllithium | C(CCC)[Li]
reactant | phenylethynyllithium | C1(=CC=CC=C1)C#C[Li]
reactant | chloroacetyl chloride | 110 mmol, 8.8 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | ZnCl2 | 73 mmol, 10 g | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 1.06 mmol, 1.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chloro-4-phenyl-3-butyn-2-one | 7.83 g, 60% yield | ClCC(C#CC1=CC=CC=C1)=O | C10H7ClO
